US05086042
To a solution of isobutyl chloroformate (26 ml, 200 mmole) in 600 ml of chloroform was added in portions the dicyclohexylamine (DCHA) salt of N-hydroxysuccinimide (HOSu, 49.28 g, 200 mmole). After stirring the resulting suspension overnight, the precipitated DCHA hydrochloride was filtered off and washed with chloroform. The concentrated filtrate (ca. 50 ml) and washings were diluted with 400 ml of ethyl acetate (EtOAc) and washed with 10% citric acid (4×100 ml), brine (2×100 ml), 10% sodium bicarbonate (3×100 ml), and brine (4×100 ml) and then dried (magnesium sulfate), filtered, and concentrated to ca. 100 ml. On diluting with ether and precipitating with hexane, 26.6 g (62% yield) of iBuOCO-OSu was obtained, mp 33°-35° C.

reactant | isobutyl chloroformate | 200 mmole, 26 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | dicyclohexylamine | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | N-hydroxysuccinimide | 200 mmole, 49.28 g | ON1C(CCC1=O)=O | C4H5NO3
solvent | chloroform | 600 ml | C(Cl)(Cl)Cl | CHCl3
product | Isobutyl Succinimidyl Carbonate | 26.6 g, 62% yield | C(OCC(C)C)(ON1C(CCC1=O)=O)=O | C9H13NO5
